US09255074B2
Alternative Preparation of N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide (Compound (A-1))
Tris(dibenzylideneacetone)dipalladium(0) (0.0066 g, 7.16 μmol), di-tert-butyl(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)phosphine (0.0083 g, 17 μmol) and milled potassium phosphate tribasic (0.334 g, 1.58 mmol) were charged to a 40-mL reaction vial inside an inert atmosphere glove box. t-Amyl alcohol (4 mL) was added, the vial was capped, and the contents were heated to 80° C. and stirred at this temperature for 30 minutes. The reaction mixture was cooled down to the room temperature. 6-(3-tert-Butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate (1.0 g, 1.43 mmol), methanesulfonamide (0.163 g, 1.72 mmol) and t-amyl alcohol (8 mL) were added to the 40-mL reaction vial, and the vial was capped. The reaction temperature was raised to 90° C. and the contents were stirred for 5 hours. HPLC analysis of the reaction mixture showed that the product was formed in 94 area % at 210 nm.

reactant | di-tert-butyl(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)phosphine | 17 μmol, 0.0083 g | C(C)(C)(C)P(C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C31H49O2P
reactant | potassium phosphate tribasic | 1.58 mmol, 0.334 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | t-Amyl alcohol | 4 mL | C(C)(C)(CC)O | C5H12O
reactant | 6-(3-tert-Butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | 1.43 mmol, 1.0 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=C(C(=CC(=C1)N1C(NC(C=C1)=O)=O)C(C)(C)C)OC)F | C29H23F9N2O6S
reactant | methanesulfonamide | 1.72 mmol, 0.163 g | CS(=O)(=O)N | CH5NO2S
reactant | t-amyl alcohol | 8 mL | C(C)(C)(CC)O | C5H12O
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 7.16 μmol, 0.0066 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide | C(C)(C)(C)C=1C(=C(C=C(C1)N1C(NC(C=C1)=O)=O)C=1C=C2C=CC(=CC2=CC1)NS(=O)(=O)C)OC | C26H27N3O5S
